US04466916
A. Preparation of 3,3,7,7-tetramethyl-1,4-diazepin-2-one
In a manner analogous to that described in Example 3C hereinabove, 3-methyl-1,3-diaminobutane, water and acetone cyanohydrin are reacted, and the reaction product recovered. When dissolved and recrystallized from acetone it is identified as 3,3,7,7-tetramethyl-1,4-diazepin-2-one. Other primary amines may be used for other substituents.

reactant | 3-methyl-1,3-diaminobutane | CC(CCN)(C)N | C5H14N2
reactant | acetone cyanohydrin | CC(C#N)(O)C | C4H7NO
reactant | water | O | H2O
product | 3,3,7,7-tetramethyl-1,4-diazepin-2-one | CC1(C(NC(C=CN1)(C)C)=O)C | C9H16N2O
